US05760050
8-Methoxy-3-(3,4,5-trimethoxy-benzyl)-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
Prepared by the procedure of Example 3 from 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one and 3,4,5-trimethoxybenzaldehyde. Yield 72%; mp 171°-173° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | 3,4,5-trimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
product | 8-Methoxy-3-(3,4,5-trimethoxy-benzyl)-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | Yield 72% | COC=1C=CC2=C(C1)OC(C=1CN(CCC12)CC1=CC(=C(C(=C1)OC)OC)OC)=O | C23H25NO6
